US05091531
e) 3-Chloro-6-(3,4,5-trimethoxyphenethyl) pyridazine
A mixture of 6-(3,4,5-Trimethoxyphenethyl)pyridazin-3(2H)-one (2.80 g; 9.65 mmol) and phosphorus oxychloride (70 ml) was heated at 100° for 1 h, cooled to room temperature and hydrolysed by careful, gradual addition to water over 3 h, so that the temperature did not exceed 30°. The mixture was then basified to pH12 by the addition of sodium hydroxide solution (10N, 700 ml) and then left at 4° overnight. The precipitate was filtered at the pump, washed well with water to remove inorganic salts and the residue on the sinter taken up in dichloromethane. After drying (sodium sulphate), removal of the solvent gave a light-brown solid (2.84 g) which was purified by `flash` chromatography on silica, with 10% of ethyl acetate/dichloromethane as the eluent. Appropriate fractions were combined to give a white solid (2.16 g), m.p. 105°-106°.

reactant | 6-(3,4,5-Trimethoxyphenethyl)pyridazin-3(2H)-one | 9.65 mmol, 2.80 g | COC=1C=C(CCC=2C=CC(NN2)=O)C=C(C1OC)OC | C15H18N2O4
reactant | phosphorus oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 10N, 700 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-Chloro-6-(3,4,5-trimethoxyphenethyl) pyridazine | 2.84 g | ClC=1N=NC(=CC1)CCC1=CC(=C(C(=C1)OC)OC)OC | C15H17ClN2O3
